US08431575B2
To a stirred mixture of (±)-trans-4-benzyloxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1 mmol, 0.35 g), triphenylphosphine (1.5 mmol, 0.393 g) and p-nitrobenzoic acid (1.5 mmol, 0.25 g) in anhydrous THF (6 mL) at −60° C. was added DIAD drop-wise over 5 min period. After completion of addition, the reaction mixture was stirred for 4 h during which period the reaction mixture was slowly let attain room temperature. The reaction mixture was diluted with ether (100 mL) and washed with saturated sodium bicarbonate solution (2×50 mL). The organic layer was dried, filtered and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography by eluting with 30% ethyl acetate in hexanes to get (±)-cis-4-benzyloxycarbonylamino-3-(4-nitro-benzoyloxy)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | (±)-trans-4-benzyloxycarbonylamino-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1 mmol, 0.35 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC(=O)OCC1=CC=CC=C1)O | C18H26N2O5
reactant | triphenylphosphine | 1.5 mmol, 0.393 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-nitrobenzoic acid | 1.5 mmol, 0.25 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | (±)-cis-4-benzyloxycarbonylamino-3-(4-nitro-benzoyloxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C25H29N3O8
